US05068393
To a solution of 37.7 g (0.2 mole) of 1,1,4,4-tetramethyl-1,2,3,4-tetrahydro naphthalene and 22.82 g (0.2 mole) of methylsuccinic anhydride in 250 cm3 of anhydrous 1,2-dichloroethane, there are added, by portions, over a period of about 1 hour, 53.3 g (0.4 mole) of anhydrous aluminum chloride in a manner to maintain the temperature lower than or equal to 30° C. After stirring for 3 hours at ambient temperature, the reaction mixture is poured into 200 cm3 of ice water. The organic phase is decanted. The aqueous phase is again extracted twice with 100 cm3 of dichloromethane. The dichloroethane and dichloromethane phases are combined, washed with water, dried on sodium sulfate and concentrated under reduced pressure. The residue is taken up in 300 cm3 of hexane, filtered, successively washed three times with 200 cm3 of toluene and then recrystallized in isopropyl ether. After drying, 20.7 g of 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro- 2-naphthyl)-4-oxo-2-methyl butyric acid in the form of a white solid whose melting point is 165° C. are obtained.

reactant | 1,1,4,4-tetramethyl-1,2,3,4-tetrahydro naphthalene | 0.2 mole, 37.7 g | CC1(CCC(C2=CC=CC=C12)(C)C)C | C14H20
reactant | methylsuccinic anhydride | 0.2 mole, 22.82 g | CC1C(=O)OC(C1)=O | C5H6O3
reactant | aluminum chloride | 0.4 mole, 53.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 250 cm3 | ClCCCl | C2H4Cl2
product | 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro- 2-naphthyl)-4-oxo-2-methyl butyric acid | 20.7 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(CC(C(=O)O)C)=O)C | C19H26O3
